US07511066B2
A. Methyl 2-Hydroxy-4-(2-methoxyethoxy)benzoate
A mixture of methyl 2,4-dihydroxybenzoate (5.04 g, 30 mmol), 1-bromo-2-methoxyethane (3.1 mL, 33 mmol), potassium carbonate (4.55 g, 33 mmol) and sodium iodide (1 g) in DMF (20 mL) was heated overnight at 55-60° C. before it was poured into brine (300 mL). The resulting mixture was extracted with ethyl acetate; and the ethyl acetate solution was washed with brine, dried (MgSO4) and evaporated to a residue (6.17 g), which was subjected to preparative HPLC over silica gel, eluting with a gradient of 0-30% ethyl acetate in hexane over 30 min (at 100 mL/min), to afford the ether (2.72 g).

reactant | methyl 2,4-dihydroxybenzoate | 30 mmol, 5.04 g | OC1=C(C(=O)OC)C=CC(=C1)O | C8H8O4
reactant | 1-bromo-2-methoxyethane | 33 mmol, 3.1 mL | BrCCOC | C3H7BrO
reactant | potassium carbonate | 33 mmol, 4.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 1 g | [I-].[Na+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | brine | 300 mL | [Cl-].[Na+].O
product | Methyl 2-Hydroxy-4-(2-methoxyethoxy)benzoate | OC1=C(C(=O)OC)C=CC(=C1)OCCOC | C11H14O5
